US07091214B2
A stirred suspension of 7-phenylquinolin-4-ol (84.9 g, 384 mmol) in propionic acid (850 mL) was heated to 129° C. Nitric acid (70%, 45.0 g) was added dropwise over 25 min, during which the temperature dropped to 124° C. The reaction was stirred an additional 3 h at that temperature and then cooled to 5° C. on an ice bath. The resulting solid was collected by filtration, washed with ice cold ethanol (until washings were nearly colorless) and dried at 70° C. in a vacuum oven overnight to obtain 83.2 g of 3-nitro-7-phenylquinolin-4-ol as a beige powder.

reactant | 7-phenylquinolin-4-ol | 384 mmol, 84.9 g | C1(=CC=CC=C1)C1=CC=C2C(=CC=NC2=C1)O | C15H11NO
reactant | Nitric acid | 45.0 g | [N+](=O)(O)[O-] | HNO3
solvent | propionic acid | 850 mL | C(CC)(=O)O | C3H6O2
product | 3-nitro-7-phenylquinolin-4-ol | 83.2 g | [N+](=O)([O-])C=1C=NC2=CC(=CC=C2C1O)C1=CC=CC=C1 | C15H10N2O3
